* C:\Users\nicla\Documents\GitHub\esd5_project\rf_front_end\bandpass_filter\bandpass_scaled.asc
L1 N002 P001 99.23n
L2 N003 P002 159.16n
L3 N004 P003 99.23n
C1 N002 0 14.16p
C2 N003 0 57.36p
C3 N004 0 57.36p
R1 N002 N001 50
V1 N001 0 AC 1
C4 N005 0 14.16p
R2 N005 0 50
L4 N004 0 74.17p
L5 N005 0 300.37p
L6 N003 0 74.17p
L7 N002 0 300.37p
C5 N003 P001 42.87f
C6 N004 P002 26.73f
C7 N005 P003 42.87f
.ac dec 1000 1Giga 4Giga
.backanno
.end
